US08871767B2
6-(2-fluorophenyl)-2-(6-methyl-5-nitropyridin-3-yl)imidazo[1,2-b]pyridazine
To a mixture of 2-chloro-6-(2-fluorophenyl)imidazo[1,2-b]pyridazine (0.100 g, 0.403 mmol), 2-methyl-3-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine (0.605 mmol), Na2CO3 (2.01 mmol) in 2-propanol (3.75 mL) and water (1.25 mL) that has been degassed with N2 (5 minutes) is added PdCl2(PPh3)2(0.0403) mmol). The mixture is heated at 80° C. for 12 hours, then cooled, concentrated under reduced pressure, added sat. aqueous NaHCO3 (20 mL) and extracted with EtOAc (3×20 mL). Organic layer is collected, dried over Na2SO4, filtered and concentrated to dryness. The crude product is purified via chromatography (hexanes to EtOAc) to afford the title compound (0.016 g, 11%) as a white solid: Rf 0.38 (1:1 EtOAc:hexanes); LCMS (m/z)=350.3 [M+H]+, tR=2.71 min.

reactant | 2-chloro-6-(2-fluorophenyl)imidazo[1,2-b]pyridazine | 0.403 mmol, 0.100 g | ClC=1N=C2N(N=C(C=C2)C2=C(C=CC=C2)F)C1 | C12H7ClFN3
reactant | 2-methyl-3-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | 0.605 mmol | CC1=NC=C(C=C1[N+](=O)[O-])B1OC(C(O1)(C)C)(C)C | C12H17BN2O4
reactant | Na2CO3 | 2.01 mmol | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 2-propanol | 3.75 mL | CC(C)O | C3H8O
solvent | water | 1.25 mL | O | H2O
product | 6-(2-fluorophenyl)-2-(6-methyl-5-nitropyridin-3-yl)imidazo[1,2-b]pyridazine | 0.016 g, 11% | FC1=C(C=CC=C1)C=1C=CC=2N(N1)C=C(N2)C=2C=NC(=C(C2)[N+](=O)[O-])C | C18H12FN5O2
